US07435815B2
N-Ethyl-2-[(2-methoxy-phenyl)-(toluene-2-sulfonyl)-amino]-N-(1-methyl-1H-pyrrol-2-ylmethyl)-acetamide
prepared by reaction of [(2-methoxy-phenyl)-(toluene-2-sulfonyl)-amino]-acetic acid with ethyl-(1-methyl-1H-pyrrol-2-ylmethyl)-amine

reactant | [(2-methoxy-phenyl)-(toluene-2-sulfonyl)-amino]-acetic acid | COC1=C(C=CC=C1)N(S(=O)(=O)C=1C(=CC=CC1)C)CC(=O)O | C16H17NO5S
reactant | ethyl-(1-methyl-1H-pyrrol-2-ylmethyl)-amine | C(C)NCC=1N(C=CC1)C | C8H14N2
product | N-Ethyl-2-[(2-methoxy-phenyl)-(toluene-2-sulfonyl)-amino]-N-(1-methyl-1H-pyrrol-2-ylmethyl)-acetamide | C(C)N(C(CN(S(=O)(=O)C=1C(=CC=CC1)C)C1=C(C=CC=C1)OC)=O)CC=1N(C=CC1)C | C24H29N3O4S
